US04935432
A mixture of 1-[2-[3-[3-methoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(E)-propenoylamino]ethyl]-4-(3-indolyl)piperidine (2 g) and p-toluenesulfonic acid monohydrate (1.05 g) in methanol (40 ml) was refluxed for 30 minutes under an inert atmosphere. After the solvent was removed under reduced pressure, the residue was treated with water (100 ml), adjusted to pH 10.0 with a sodium carbonate solution and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over magnesium sulfate. After removal of the solvent, the residue was subjected to column chromatography on silica gel (31 g) and eluted with a mixture of chloroform and methanol (8:1 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure to give 1-[2-{3-(4-hydroxy-3-methoxyphenyl)-(E)-propenoylamino}ethyl]-4-(3-indolyl)piperidine (0.89 g).

reactant | 1-[2-[3-[3-methoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(E)-propenoylamino]ethyl]-4-(3-indolyl)piperidine | 2 g | COC=1C=C(C=CC1OCOCCOC)/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C29H37N3O5
reactant | p-toluenesulfonic acid monohydrate | 1.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 40 ml | CO | CH4O
product | 1-[2-{3-(4-hydroxy-3-methoxyphenyl)-(E)-propenoylamino}ethyl]-4-(3-indolyl)piperidine | 0.89 g | OC1=C(C=C(C=C1)/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12)OC | C25H29N3O3
